* Testcase 000830 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VVDD VDD 0 1.8
VVBIAS VBIAS 0 DC 0.54 AC 0.5

* Circuit
IBOOST VDD N11 1u
LS_1 N10 GND 10n
LIN_1 N7 RF_INp 10n
L1_1 N6 N11 10n
LIN_2 N9 RF_INn 10n
LS_2 N2 GND 10n
L1_2 N5 N11 10n
XM1 IF_Ip LO_In N5 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM2 IF_In LO_Ip N5 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM3 IF_Qp LO_Qn N5 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM4 IF_Qn LO_Qp N5 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM5 N6 VBIAS N10 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM6 IF_Qp LO_Qp N6 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
CIN_1 N7 N10 1p
CS N2 N10 1p
XM7 N5 VBIAS N2 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM8 IF_Ip LO_Ip N6 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
CIN_2 N2 N9 1p
XM9 IF_In LO_In N6 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM10 IF_Qn LO_Qn N6 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5

.control
set filetype=ascii

op
let power_dc = abs(i(VVDD)) * 1.8
print power_dc

ac dec 100 1 10g
let vout_mag = vm(LO_In)
let gain_db = db(vout_mag)
let dc_gain_db = gain_db[0]
print dc_gain_db

if dc_gain_db > 0
    meas ac ugbw WHEN gain_db=0 CROSS=1
    print ugbw
end

quit
.endc

.end
